US06008230
To a solution of 4-chloro-8-(2,6-dichlorobenzoylamino)-3-ethoxycarbonylquinoline (251 mg) in N-methylpyrrolidone (2 ml) was added 2-mercaptoimidazole (89 mg), and the mixture was stirred for 1 hour at 65° C. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated ammonium chloride solution, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was crystallized from ethanol to give 4-(2,6-dichlorobenzoylamino)-7H-imidazo[2',1':2,3][1,3]thiazino-[5,6-c]quinolin-7-one (248.2 mg).

reactant | 4-chloro-8-(2,6-dichlorobenzoylamino)-3-ethoxycarbonylquinoline | 251 mg | ClC1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)C(=O)OCC | C19H13Cl3N2O3
reactant | 2-mercaptoimidazole | 89 mg | SC=1NC=CN1 | C3H4N2S
reactant | water | O | H2O
solvent | N-methylpyrrolidone | 2 ml | CN1C(CCC1)=O | C5H9NO
product | 4-(2,6-dichlorobenzoylamino)-7H-imidazo[2',1':2,3][1,3]thiazino-[5,6-c]quinolin-7-one | 248.2 mg | ClC1=C(C(=O)NC=2C=CC=C3C4=C(C=NC23)C(N2C(S4)=NC=C2)=O)C(=CC=C1)Cl | C20H10Cl2N4O2S
